US06608217B2
A three-necked 50-ml flask (equipped with a reflux condenser, a thermometer, and a CO introducing pipe connected with a balloon charged with carbon monoxide gas) was charged with 2.00 g (4.85 mmol) of trifluoromethanesulfonic acid 2,2-bis(fluoromethyl)-6- (trifluoromethyl)-2 H-1-benzopyran-4-yl ester, 1.90 g (19.4 mmol) of potassium acetate, 206 mg (4.85 mmol) of lithium chloride, and 25 ml of N,N-dimethylformamide. Under stirring of the mixture, 50 mg (0.0485 mmol) of tris(dibenzylidene)(chloroform)dipalladium (Pd2(dba)3(CHCl3)) were added. Under normal pressure, the reaction was conducted at 25° C. for 2 hr, while maintaining carbon monoxide atmosphere. After the reaction, the reaction liquid was poured into 50 ml of 2 mol/L sodium hydroxide aqueous solution, followed by shaking for 20 min, then adding concentrated hydrochloric acid to make it acid, and then extraction two times with 50 ml of MTBE. The resulting two MTBE extracts were combined together, followed by washing with water, then by drying with 5 g of magnesium sulfate anhydride, and then by filtration. Then, the MTBE was distilled off by an evaporator. The resulting residue was dissolved in 50 ml of a saturated sodium hydrogencarbonate aqueous solution, followed by washing with 5 ml of methylene chloride. The resulting aqueous layer was made acid by concentrated hydrochloric acid, followed by extraction two times with 50 ml of MTBE. The resulting two MTBE extracts were combined together, followed by washing with water, then by drying with 5 g of magnesium sulfate anhydride, and then by filtration. Then, the MTBE was distilled off by an evaporator, thereby obtaining 1.30 g (4.22 mmol) of 2,2-bis(fluoromethyl)-6-(trifluoromethyl)-2 H-1- benzopyran- 4-carboxylic acid (yield: 87.0%).

reactant | carbon monoxide | [C]=O | CO
reactant | trifluoromethanesulfonic acid 2,2-bis(fluoromethyl)-6- (trifluoromethyl)-2 H-1-benzopyran-4-yl ester | 4.85 mmol, 2.00 g | FCC1(OC2=C(C(=C1)OS(=O)(=O)C(F)(F)F)C=C(C=C2)C(F)(F)F)CF | C13H8F8O4S
reactant | potassium acetate | 19.4 mmol, 1.90 g | C(C)(=O)[O-].[K+]
reactant | lithium chloride | 4.85 mmol, 206 mg | [Cl-].[Li+]
reactant | sodium hydroxide | 2 mol/L, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,2-bis(fluoromethyl)-6-(trifluoromethyl)-2 H-1- benzopyran- 4-carboxylic acid | 4.22 mmol, 1.30 g, yield: 87.0% | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)C(F)(F)F)CF | C13H9F5O3
